US04070481
A mixture of 1.7 parts of 5-chloro-2-dodecyl-1,4-naphthoquinone, 25 parts ethanol, 0.626 parts anhydrous sodium carbonate and 6.3 parts water was contacted with 1.13 parts of 30% hydrogen peroxide at 32° C and then refluxed for 10 minutes. The resulting mixture was then cooled to 50° C and a solution of 1.56 parts of potassium hydroxide in 49.5 parts of ethanol was added to it. The resulting deep red mixture was then heated to 50° C over 25 minutes and the temperature held there for 45 minutes. After cooling to 10° C the mixture was then contacted with 251 parts of 2.72% hydrochloric acid. The resulting yellow crystals were filtered, dried and purified by column chromatography on silica gel using 1-chlorobutane as eluent. Solvent removal gave 1.4 parts of 5-chloro-2-dodecyl-3-hydroxy-1,4-naphthoquinone, m.p. 102°-104.5° C.

reactant | 5-chloro-2-dodecyl-1,4-naphthoquinone | ClC1=C2C(C=C(C(C2=CC=C1)=O)CCCCCCCCCCCC)=O | C22H29ClO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-chloro-2-dodecyl-3-hydroxy-1,4-naphthoquinone | ClC1=C2C(C(=C(C(C2=CC=C1)=O)CCCCCCCCCCCC)O)=O | C22H29ClO3
